US07071212B2
Pd-C (10%, 236 mg, 0.22 mmol) was added a solution of the ethyl (RS)-(4-cyano-phenylamino)-(3-methoxy-5-vinyl-phenyl)-acetate (1.495 g, 4.44 mmol) obtained in Example198.3 in EtOH (40 ml) and THF (4 ml) and the mixture was hydrogenated for 1 h. at room temperature. The reaction mixture was filtered, the filtrate was concentrated and the residue was purified by filtration over SiO2 (eluent: AcOEt/hexane 1:1). There were obtained 1.5 g (99%) of ethyl (RS)-(4-cyano-phenylamino)-(3-ethyl-5-methoxy-phenyl)-acetate as a beige solid; MS: 338 ([M]+).

reactant | ethyl (RS)-(4-cyano-phenylamino)-(3-methoxy-5-vinyl-phenyl)-acetate | 4.44 mmol, 1.495 g | C(#N)C1=CC=C(C=C1)NC(C(=O)OCC)C1=CC(=CC(=C1)C=C)OC | C20H20N2O3
reactant | THF | 4 ml | C1CCOC1 | C4H8O
solvent | EtOH | 40 ml | CCO | C2H6O
catalyst | Pd-C | 0.22 mmol, 236 mg | [Pd] | Pd
product | ethyl (RS)-(4-cyano-phenylamino)-(3-ethyl-5-methoxy-phenyl)-acetate | 1.5 g, 99% | C(#N)C1=CC=C(C=C1)NC(C(=O)OCC)C1=CC(=CC(=C1)OC)CC | C20H22N2O3
